Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
thioridazine
 
Attending: ___.
 
Chief Complaint:
Fall with L hip pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ man with history of cirrhosis,
opioid use disorder on methadone, neuropathy, bilateral hip
fractures s/p repair presenting after a fall with hip pain.

The patient reports that he was at the ___ today 
for
a dermatology appointment to address the skin changes on his
legs. He states that his legs have become discolored over the
past year. He states that this is because of swelling in his
legs, and sometimes he gets blisters on his legs that burst. He
saw the dermatologist, who prescribed topical mupirocin and
triamcinolone cream. He was waiting for The Ride home from the
appointment, when he lost his balance while walking using his
cane. He denies any antecedent symptoms such as dizziness,
lightheadedness, chest pain, palpitations. He did not hit his
head or lose consciousness. He felt on his left side and felt
immediate pain. An ambulance was called, and he was brought to
___. 

Regarding his medical history, he tells me that he has had two
prior falls resulting in right and left hip fractures that he 
had
operatively repaired. He has a history of heroin use, quit ___ 
year
ago, currently on methadone 60 mg daily that he gets through the
___. He reports that he has history of hepatitis C and was 
treated
and told he was cured. He believes he has cirrhosis and
splenomegaly. He denies any history of ascites or GI bleeding. 
He
has severe neuropathy of both legs, which is why he ambulates
with a cane and he states it has contributed to his fall. The
etiology of this neuropathy is unknown; he firmly denies history
of diabetes. 

Prior to his fall, he was feeling in his usual state of health.
He denies cough, shortness of breath, abdominal pain, nausea,
vomiting, diarrhea, dysuria, fevers, chills.

In the ED, initial vitals: 98.5 -> Tmax 102.6 86 151/94 19 94% 
RA
-> 94% on 2L NC
Exam notable for: MSK: minimally TTP in left hip, no pain w/
passive ROM, no spinal tenderness
Labs notable for: WBC 5.6, Hb 10.7, plt 110, BUN/Cr 32/1.4; UA
bland, FluPCR negative
Imaging: CT left leg with comminuted left anterior acetabular
fracture with intra-articular extension. Nondisplaced proximal
left superior ramus fracture, contiguous with acetabular
fracture. Probable left inferior ramus nondisplaced fracture.
Left femoral head impaction fracture.
Consults: Ortho
Patient given: ceftriaxone 1 gm, azithromycin 500 mg

On arrival to the floor, he reports that he feels well. No
shortness of breath or cough. No subjective fevers or chills. No
pain in his left hip as long as he is not moving.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- Cirrhosis
- Hepatitis C s/p treatment
- Depression
- Opioid use disorder on methadone
- ?CKD
- Hypothyroidism
- Neuropathy
- Bilateral hip fractures s/p repair
 
Social History:
___
Family History:
- Mother: ___ cancer
- Father: Healthy
 
Physical ___:
ADMISSION:
=========
VITALS: 98.3 115/71 76 20 96 2L NC 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation but diminished breath sounds.
No wheezes, rales, or rhonchi. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; left strength exam
limited due to pain in left hip
SKIN: Bilateral venous stasis changes without evidence of
infection
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE:
==========
VITALS:  98.5 BP:114 / 63 HR:56 R:18 98 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation. No wheezes, rales, or 
rhonchi. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, pain on rotation of 
left hip. No pain on palpation. 
SKIN: Bilateral venous stasis changes,
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout/ No asterixis
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:
=========
___ 06:30PM BLOOD WBC-5.6 RBC-3.69* Hgb-10.7* Hct-33.1* 
MCV-90 MCH-29.0 MCHC-32.3 RDW-15.9* RDWSD-50.9* Plt ___
___ 06:30PM BLOOD Neuts-76.9* Lymphs-11.8* Monos-10.0 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-4.30 AbsLymp-0.66* 
AbsMono-0.56 AbsEos-0.01* AbsBaso-0.01
___ 05:13AM BLOOD ___ PTT-32.2 ___
___ 07:08AM BLOOD ___ 07:08AM BLOOD Ret Aut-5.0* Abs Ret-0.17*
___ 06:30PM BLOOD Glucose-166* UreaN-32* Creat-1.4* Na-138 
K-5.3 Cl-98 HCO3-27 AnGap-13
___ 06:30PM BLOOD ALT-22 AST-51* AlkPhos-107 TotBili-1.0
___ 07:08AM BLOOD ALT-16 AST-24 LD(LDH)-260* AlkPhos-95 
TotBili-0.6
___ 06:30PM BLOOD Albumin-3.8 Calcium-8.7 Phos-2.8 Mg-1.7
___ 07:08AM BLOOD calTIBC-244* ___ Ferritn-270 
TRF-188*
___ 05:13AM BLOOD %HbA1c-5.3 eAG-105

DISCHARGE:
==========
___ 10:10AM BLOOD WBC-4.4 RBC-3.72* Hgb-10.6* Hct-34.1* 
MCV-92 MCH-28.5 MCHC-31.1* RDW-15.9* RDWSD-52.5* Plt Ct-96*
___ 10:10AM BLOOD Glucose-192* UreaN-19 Creat-1.1 Na-141 
K-4.9 Cl-99 HCO3-31 AnGap-11

UA: negative
Flu A/B: negative

BCx (___): pending x2
UCX (___): pending

IMAGING:
========
EKG (___):
Baseline artifact, ST at 100 bpm, borderline LAD, PR 132, QRS 
87,
QTC 442

CXR (___): 
Lung volumes are low. No large consolidation, effusion or
pneumothorax seen. Cardiomediastinal silhouette appears normal. 
No definite bony abnormality. 

Right hip plain films (___):  
Severe osteoarthritis at the left hip with flattening of the 
left
femoral head with probable underlying fracture. 

CT left lower extremity (___):
1.  Nondisplaced comminuted fracture of the anterior column of
the left acetabulum with intra-articular extension to the medial
wall, and junction with the superior pubic ramus. 
2.  There is also a nondisplaced left inferior ramus fracture. 
3.  There is a minimally impacted periprosthetic subchondral
insufficiency fracture of the superior anterior femoral head. 

Pelvis plain films with Judet views (___): 
Minimally impacted left femoral head subchondral insufficiency
fracture. Comminuted left anterior column of the acetabulum and
pubic rami fractures are better appreciated and reported on day
CT. No dislocation. 

Femur plain films (___): 
No fracture or dislocation involving the distal visualized 
femur.

 
Brief Hospital Course:
___ man with history of decompensated cirrhosis, HCV s/p 
treatment, opioid use disorder on methadone, neuropathy, ? CKD, 
bilateral hip fractures s/p repair presenting with L hip pain 
after a fall, found to have a L hip fracture, fever, and 
hypoxia.

# Mechanical fall:
# L femoral head collapse c/w AVN:
# L non-displaced acetabulum fracture:
# L non-displaced left inferior ramus fracture:
Patient presented after mechanical fall in setting of neuropathy 
and baseline instability, found to have non-displaced acetabulum 
fracture, non-displaced L inferior ramus fracture, and 
___ L femoral head collapse c/w AVN. Seen by 
orthopedics and recommended for non-operative management and 
touch-down weight-bearing to L leg. Pain was controlled with 
tylenol, home methadone, and oxycodone PRN. He will need to f/u 
with ortho in 2 weeks (appointment requested) and may need 
eventual L hip arthroplasty for AVN. Home Ca/vit D continued, 
and patient reports plans as outpatient for IV bisphosphonate. 
He will be discharged to rehab.

# Hypoxia: 
Patient hypoxic in ED to 88% on RA, weaned to RA on the floor 
with persistent hypoxia to ___ with ambulation. Etiology 
unclear. CXR underinflated but no pulmonary edema or focal 
consolidation, and clinically patient does not have pneumonia or 
heart failure. No history of smoking or COPD, and no wheezing on 
exam. PE was a consideration, but Wells score was 0; deferred 
sending D-dimer given likely to be elevated in setting of acute 
fracture. Fat embolus a consideration give fracture, anemia, 
thrombocytopenia (although suspect these are chronic); however, 
no long-bone fracture, no evidence of petechiae, no mental 
status changes, and patient appeared clinically well. Overall, 
suspicion is highest for atelectasis and incentive spirometry 
use was encouraged. S/p ceftriaxone/azithro in ED for question 
of pneumonia, d/c'd on admission. Hypoxia resolved without 
intervention. 

# Fever: 
Patient documented as febrile to 102.6 in ED, however, this 
rapidly resolved without Tylenol. Patient has no localizing 
signs or symptoms of infection. He had no cough, sputum, or 
shortness of breath, nor CXR findings suggestive of pneumonia. 
Although his legs demonstrate chronic changes, he had no 
evidence of superinfection. UA bland; BCx/UCx negative Patient 
has history of cirrhosis but no evidence of abdominal pain or 
ascites on exam to suggest SBP. Fever may have been spurious or 
secondary to inflammatory response due to fracture. No recurrent 
fevers since admission.

# Neuropathy: 
Patient with history of neuropathy of unclear etiology (denies 
diabetes, and A1c WNL). Continued home lyrica.

# Venous stasis: 
Patient with chronic venous stasis changes on bilateral lower 
extremities without evidence of infection. Seen by dermatology 
as outpatient on day of admission and prescribed topical 
antibiotics and steroids, which were continued on discharge.

# History of hepatitis C s/p treatment:
# Cirrhosis: 
Patient reports history of hepatitis C s/p treatment with SVR. 
Also reports cirrhosis, splenomegaly, and varices without 
ascites. No evidence of hepatic encephalopathy, ascites, or 
variceal bleeding. MELD Na 14 on ___. Home propranolol and 
lactulose were continued.

# Pancytopenia:
Suspect chronic in setting of cirrhosis and splenomegaly, but 
baseline unclear. Denies ETOH abuse. Low suspicion for infection 
(no neutropenia), active bleeding, DIC, or hemolysis/MAHA. 
Attempted to request records from PCP's office at ___ 
without success (PCP is NP ___.  Pancytopenia 
remained stable.

# ?CKD: 
Chronic renal insufficiency per patient, but baseline Cr 
unclear. Cr 1.4 on admission and remained stable. Cr 1.1 on 
discharge.

# History of opioid use disorder: 
Prior heroin use in remission. Continued on home methadone 60mg 
daily (confirmed with Veteran's home).

# Depression:
Continued home escitalopram.

# Hypothyroidism:
Continued home levothyroxine

# Multiple b/l testicular/scrotal calcifications:
Incidental finding on CT. ___ represent scrotoliths. Would 
benefit from outpatient f/u.

** TRANITIONAL **
[ ] ensure ortho f/u in 2 weeks- Patient can follow up here at 
___ or at ___
[ ] outpatient f/u for likely scrotoliths
[ ] outpatient f/u for likely chronic pancytopenia

# Contacts/HCP/Surrogate and Communication: ___ ___ home
nurse manager, ___
# Code Status/Advance Care Planning: Full (confirmed)

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. calcium carbonate-vitamin D2 250 (625)-125 mg-unit oral BID 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. ipratropium bromide 0.03 % nasal BID:PRN 
6. Lactulose 30 mL PO BID 
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. Methadone 60 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Pregabalin 100 mg PO BID 
11. Propranolol 40 mg PO QHS 
12. Ranitidine 150 mg PO DAILY 
13. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID rash 
14. Mupirocin Ointment 2% 1 Appl TP BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID 
Can discontinue if mobility improves.  
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Ramelteon 8 mg PO QHS:PRN Insomnia 
Should be given 30 minutes before bedtime  
6.  Senna 8.6 mg PO QHS  
7.  Lactulose 30 mL PO TID  
8.  calcium carbonate-vitamin D2 250 (625)-125 mg-unit oral BID  

9.  Escitalopram Oxalate 10 mg PO DAILY  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  FoLIC Acid 1 mg PO DAILY  
12.  ipratropium bromide 0.03 % nasal BID:PRN  
13.  Levothyroxine Sodium 75 mcg PO DAILY  
14.  Methadone 60 mg PO DAILY 
Consider prescribing naloxone at discharge  
15.  Multivitamins 1 TAB PO DAILY  
16.  Mupirocin Ointment 2% 1 Appl TP BID  
17.  Pregabalin 100 mg PO BID  
18.  Propranolol 40 mg PO QHS  
19.  Ranitidine 150 mg PO DAILY  
20.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID rash  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
L hip fracture

Secondary:
Cirrhosis
Opiate use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a fall resulting in a 
left-sided hip fracture.  You were evaluated by the orthopedic 
surgery team, who feel that you do not need surgery at this 
time.  You will need to follow-up with orthopedics in about 2 
weeks as an outpatient.  Their office is working to make an 
appointment for you, but if you have not heard from them by 
early next week please contact their office at the number below.

On arrival to the hospital your oxygen levels were noted to be 
low and you had a mild fever.  You were monitored for evidence 
of infection, but none was found.

It will be important to follow-up with your primary care and 
liver doctors after ___ from the rehab.

With best wishes,
___ Medicine
 
Followup Instructions:
___